US04490151
1-(2'-chloro-5'-sulfophenyl)-3-carboethoxy-5-pyrazolone
and for economic reasons and performance properties, and preferred pyrazolones are: 1-(4'-sulfophenyl)-3-methyl-5-pyrazolone; 1-(3'-sulfophenyl)-3-methyl-5-pyrazolone; 1-(2'-chloro-5'-sulfophenyl)-3-methyl-5-pyrazolone; and 1-(2',5'-dichloro-4'-sulfophenyl)-3-methyl-5-pyrazolone.

reactant | 1-(4'-sulfophenyl)-3-methyl-5-pyrazolone | S(=O)(=O)(O)C1=CC=C(C=C1)N1NC(=CC1=O)C | C10H10N2O4S
reactant | 1-(3'-sulfophenyl)-3-methyl-5-pyrazolone | S(=O)(=O)(O)C=1C=C(C=CC1)N1NC(=CC1=O)C | C10H10N2O4S
reactant | 1-(2'-chloro-5'-sulfophenyl)-3-methyl-5-pyrazolone | ClC1=C(C=C(C=C1)S(=O)(=O)O)N1NC(=CC1=O)C | C10H9ClN2O4S
reactant | 1-(2',5'-dichloro-4'-sulfophenyl)-3-methyl-5-pyrazolone | ClC1=C(C=C(C(=C1)S(=O)(=O)O)Cl)N1NC(=CC1=O)C | C10H8Cl2N2O4S
product | 1-(2'-chloro-5'-sulfophenyl)-3-carboethoxy-5-pyrazolone | ClC1=C(C=C(C=C1)S(=O)(=O)O)N1NC(=CC1=O)C(=O)OCC | C12H11ClN2O6S
